US08309736B2
The p-bromobenzaldehyde (1 mmol) and the L-proline (30 mol %) are dissolved in N,N′-dimethylimidazolium methyl H-phosphonate (1 ml). The acetone (1 ml) is added. The mixture is stirred at room temperature until disappearance of the bromobenzaldehyde (followed by Thin Layer Chromatography). 4-(4-bromophenyl)but-3-en-2-one is isolated by extraction with ether (3×5 ml). The product is purified by column chromatography (0.96 g; yield=80%).

reactant | p-bromobenzaldehyde | 1 mmol | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | acetone | 1 ml | CC(=O)C | C3H6O
reactant | bromobenzaldehyde | BrC1=C(C=O)C=CC=C1 | C7H5BrO
solvent | ether | 5 ml | CCOCC | C4H10O
product | 4-(4-bromophenyl)but-3-en-2-one | yield=80% | BrC1=CC=C(C=C1)C=CC(C)=O | C10H9BrO
